US07732645B2
To a mixture of di-μ-chlorobis(1,5-cyclooctadiene) diiridium(I) [Ir(cod)Cl]2 (67 mg, 0.1 mmol) and sodium carbonate (640 mg, 6 mmol) in toluene (5 ml) were added α,α,α′,α′-tetramethyl-1,3-benzenedimethanol (5 mmol) and vinyl acetate (2.15 g, 25 mmol), followed by stirring at 100° C. in an atmosphere of argon gas for 6 hours. The reaction mixture was analyzed by gas chromatography to find that 1-(1-hydroxy-1-methylethyl)-3-(1-methyl-1-vinyloxyethyl)benzene and 1,3-bis(1-methyl-1-vinyloxyethyl)benzene were formed in yields of 8% and 70%, respectively, with a conversion from α,α,α′,α′-tetramethyl-1,3-benzenedimethanol of 98%.

reactant | sodium carbonate | 6 mmol, 640 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | α,α,α′,α′-tetramethyl-1,3-benzenedimethanol | 5 mmol | CC(O)(C1=CC(=CC=C1)C(O)(C)C)C | C12H18O2
reactant | vinyl acetate | 25 mmol, 2.15 g | C(C)(=O)OC=C | C4H6O2
reactant | 1-(1-hydroxy-1-methylethyl)-3-(1-methyl-1-vinyloxyethyl)benzene | OC(C)(C)C1=CC(=CC=C1)C(C)(OC=C)C | C14H20O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-bis(1-methyl-1-vinyloxyethyl)benzene | CC(C)(OC=C)C1=CC(=CC=C1)C(C)(C)OC=C | C16H22O2
